US07279600B2
4′-Hydroxy[1,1′-biphenyl]-4-carbaldehyde
A mixture of 4′-{[tert-butyl(dimethyl)silyl]oxy}-1,1′-biphenyl-4-carbaldehyde (320 mg, 1.03 mmol), anhydrous KF (120 mg, 2.06 mmol) and 48% aqueous HBr (35 ul, 0.31 mmol) in 6 mL dry DMF was stirred at room temperature under N2 for 1 h. TLC indicated starting material present and therefore more 48% aqueous HBr (35 uL, 0.31 mmol) was added into the reaction and the mixture was continued to stir for 1.5 h. The mixture was then poured, with cooling, into 1 N aqueous HCl (30 mL). The aqueous mixture was extracted with EtOAc (3×). The combined extracts were washed with saturated NaCl solution, and dried over Na2SO4. The solvent was evaporated under reduced pressure and the product (100%) which was used directly in the next step. 1H NMR (DMSO-d6): δ 6.89 (2H, d, J=8.43 Hz), 7.63 (2H, d, J=8.46 Hz), 7.83 (2H, d, J=8.16 Hz), 7.94 (2H, d, J=8.02 Hz), 9.79 (1H, s), 10.01 (1H, s).

reactant | 4′-{[tert-butyl(dimethyl)silyl]oxy}-1,1′-biphenyl-4-carbaldehyde | 1.03 mmol, 320 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C19H24O2Si
reactant | KF | 2.06 mmol, 120 mg | [F-].[K+]
reactant | HBr | 0.31 mmol, 35 ul | Br | BrH
reactant | HBr | 0.31 mmol, 35 uL | Br | BrH
reactant | HCl | 1 N, 30 mL | Cl | ClH
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 4′-Hydroxy[1,1′-biphenyl]-4-carbaldehyde | OC1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C13H10O2
